US04552585
To a stirred solution of 7.9 grams (0.08 mole) of phosgene in toluene was added dropwise a solution of 5.0 grams (0.02 mole) of 2-(4-amino-2-chlorophenyl)methyl-4,4-dimethyl-3-isoxazolidinone in tetrahydrofuran. Upon completion of addition the reaction mixture was warmed to 80° C. where it stirred for 3 hours. The reaction mixture was concentrated under reduced pressure to give 5.6 grams of 2-(2-chloro-4-isocyanatophenyl)methyl-4,4-dimethyl-3-isoxazolidinone as a residual solid.

reactant | phosgene | 0.08 mole, 7.9 grams | C(=O)(Cl)Cl | CCl2O
reactant | 2-(4-amino-2-chlorophenyl)methyl-4,4-dimethyl-3-isoxazolidinone | 0.02 mole, 5.0 grams | NC1=CC(=C(C=C1)CN1OCC(C1=O)(C)C)Cl | C12H15ClN2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-chloro-4-isocyanatophenyl)methyl-4,4-dimethyl-3-isoxazolidinone | 5.6 grams | ClC1=C(C=CC(=C1)N=C=O)CN1OCC(C1=O)(C)C | C13H13ClN2O3
